US05086055
5-[2-[4-(4-Methoxyphenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 2.4 g (0.012 mol) of 1-(4-methoxyphenyl)piperazine, 2.0 g (0.012 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 4.2 g (0.04 mol) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 100 mL of 1-butanol gave 2.4 g (63%) of pink solid, mp 103°-104° C. (2-propanol).

reactant | 1-(4-methoxyphenyl)piperazine | 0.012 mol, 2.4 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.012 mol, 2.0 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.04 mol, 4.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-[2-[4-(4-Methoxyphenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone | 2.4 g, 63% | COC1=CC=C(C=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C17H25N3O3
